US03952012
5-(o-Chlorobenzoyl)-1-methylpyrrole-2-acetonitrile:
To a cooled suspension of 14 g. (0.105 mole) aluminum chloride in 45 ml. dichloroethane is added dropwise, 18.5 g. (0.105 mole) o-chlorobenzoyl chloride. The resulting solution is added dropwise to a cooled (0°C.) solution of 1-methylpyrrole-2-acetonitrile in 45 ml. dichloroethane keeping the temperature at approximately 10°C. The mixture is stirred at room temperature for about twenty minutes, and then refluxed for three minutes. It is poured into ice acidified with 3N hydrochloric acid and the resulting two layers are separated. The aqueous fraction is extracted twice with chloroform. The organic fractions are combined and washed twice with N,N-dimethyl-1,3-propanediamine, once with 3N hydrochloric acid and once with saturated sodium chloride solution. The organic fraction is dried over anhydrous magnesium sulfate. The solvent is evaporated and the resulting oil is chromatographed on a column packed with neutral alumina using benzene and ether as successive solvents. The first compound-bearing fractions contain the desired product. The solvent is evaporated and the resulting oil crystallizes upon treatment with methanol. The solid product, 5-(o-chlorobenzoyl)-1-methylpyrrole-2-acetonitrile, is purified by recrystallization from benzene:cyclohexane solution, m.p. 80°-85°C.

reactant | aluminum chloride | 0.105 mole | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloroethane | ClC(C)Cl | C2H4Cl2
reactant | o-chlorobenzoyl chloride | 0.105 mole | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 1-methylpyrrole-2-acetonitrile | CN1C(=CC=C1)CC#N | C7H8N2
reactant | hydrochloric acid | 3N | Cl | ClH
product | 5-(o-Chlorobenzoyl)-1-methylpyrrole-2-acetonitrile | ClC1=C(C(=O)C2=CC=C(N2C)CC#N)C=CC=C1 | C14H11ClN2O
